US07947834B2
10.5: {4-[(3-(Pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}methanol Hydrochloride
0.21 g of {4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}methanol, dissolved in 6.19 ml of a 0.1N solution of hydrochloric acid in ether, is introduced into a 50 ml round-bottomed flask. Stirring is maintained for ten minutes. After evaporating, the residue is triturated in ethyl ether and then the solid is filtered off in order to obtain, after drying under vacuum, 0.108 g of {4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}methanol hydrochloride.

reactant | {4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}methanol | 0.21 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCOC2=C1C=C(C=C2)CO | C19H21N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | {4-[(3-(Pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}methanol Hydrochloride | Cl.N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCOC2=C1C=C(C=C2)CO | InChI=1S/C19H21N3O3.ClH/c23-13-14-3-4-18-17(10-14)22(8-9-25-18)19(24)21-7-5-16(12-21)15-2-1-6-20-11-15;/h1-4,6,10-11,16,23H,5,7-9,12-13H2;1H
